US07541131B2
Thianthrene (20 g) was refluxed in 300 ml of acetic acid, and 36 ml of dilute nitric acid was gradually added dropwise thereto. After allowing the reaction to proceed for 5 hours, the reaction solution obtained was poured in 1.2 liter of water to precipitate a crystal. The crystal was collected by filtration and then recrystallized from acetonitrile to obtain 12 g of thianthrene-S-oxide. 1H-NMR (400 MHz, CDCl3): δ 7.42 (t, 2H), 7.56 (t, 2H), 7.63 (d, 2H), 7.93 (d, 2H).

reactant | Thianthrene | 20 g | C1=CC=CC=2SC3=CC=CC=C3SC12 | C12H8S2
reactant | nitric acid | 36 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | water | 1.2 liter | O | H2O
product | thianthrene-S-oxide | 12 g | C1=CC=CC=2S(C3=CC=CC=C3SC12)=O | C12H8OS2
